US08633227B2
To a stirred solution of (R)-3-((E)-2-(pyrrolidin-3-yl)vinyl)-5-(tetrahydropyran-4-yloxy)pyridine (4.0 g, 15 mmol) in ethanol (12.5 mL) solution, heated to 60° C., was added solid di-p-toluoyl-D-tartaric acid (5.3 g, 14 mmol). The solution was held at 60° C. for 2-3 min to ensure complete dissolution of the solids, then the heat source was removed and the solution was cooled to 25-30° C. over 60 min. The resulting suspension was held at 25-30° C. for 30 min, and then filtered to collect the solids. The solids were washed with ethanol (2×20 mL), air dried for 30 min, then dried in a vacuum oven under reduced pressure at 50° C., until a constant weight was established, to give (R)-3-((E)-2-(pyrrolidin-3-yl)vinyl)-5-(tetrahydropyran-4-yloxy)pyridine di-p-toluoyl-D-tartrate as an off-white solid (6.7 g, 72%). NNNMR analysis indicated a 1:1 salt stoichiometry. 1H-NMR (DMSO-d6, 400 MHz) δ 8.18 (s, 1 H), 8.15 (s, 1 H), 7.86 (d, 4 H), 7.47 (s, 1 H), 7.32 (d, 4 H), 6.43 (d, 1 H), 6.36 (m, 1 H), 5.67 (s, 2 H), 4.69 (m, 1 H), 3.85 (m, 2 H), 3.49 (m, 2 H), 3.25 (m, 2 H), 3.10 (m, 1 H), 2.88 (m, 2 H), 2.39 (s, 6 H), 1.98 (m, 3 H), 1.60 (m, 3 H).

reactant | (R)-3-((E)-2-(pyrrolidin-3-yl)vinyl)-5-(tetrahydropyran-4-yloxy)pyridine | 15 mmol, 4.0 g | N1C[C@H](CC1)/C=C/C=1C=NC=C(C1)OC1CCOCC1 | C16H22N2O2
reactant | di-p-toluoyl-D-tartaric acid | 14 mmol, 5.3 g | C1(=CC=C(C=C1)C(=O)[C@@]([C@@](C(=O)O)(O)C(=O)C1=CC=C(C=C1)C)(O)C(=O)O)C | C20H18O8
solvent | ethanol | 12.5 mL | C(C)O | C2H6O
product | (R)-3-((E)-2-(pyrrolidin-3-yl)vinyl)-5-(tetrahydropyran-4-yloxy)pyridine di-p-toluoyl-D-tartrate | 6.7 g, 72% | C1(=CC=C(C=C1)C(=O)[C@@]([C@@](C(=O)O)(O)C(=O)C1=CC=C(C=C1)C)(O)C(=O)O)C.N1C[C@H](CC1)/C=C/C=1C=NC=C(C1)OC1CCOCC1 | InChI=1S/C20H18O8.C16H22N2O2/c1-11-3-7-13(8-4-11)15(21)19(27,17(23)24)20(28,18(25)26)16(22)14-9-5-12(2)6-10-14;1(13-3-6-17-10-13)2-14-9-16(12-18-11-14)20-15-4-7-19-8-5-15/h3-10,27-28H,1-2H3,(H,23,24)(H,25,26);1-2,9,11-13,15,17H,3-8,10H2/b;2-1+/t19-,20-;13-/m10/s1
